US07951954B2
d) [3-({tert-Butoxycarbonyl-[2-(2-fluoro-phenyl)-ethyl]-amino}-methyl)-4-methoxy-phenyl]-acetic acid methyl ester
Di-tert-butyl dicarbonate (0.30 g) was added to a solution of (3-{[2-(2-fluoro-phenyl)-ethylamino]-methyl}-4-methoxy-phenyl)-acetic acid methyl ester (0.30 g) in dichloromethane (10 mL). After 2 hours, the reaction was concentrated and purified on silica, eluting with a gradient of methanol (0% to 1%) in dichloromethane, to give the subtitle compound as an oil (0.25 g).

reactant | Di-tert-butyl dicarbonate | 0.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3-{[2-(2-fluoro-phenyl)-ethylamino]-methyl}-4-methoxy-phenyl)-acetic acid methyl ester | 0.30 g | COC(CC1=CC(=C(C=C1)OC)CNCCC1=C(C=CC=C1)F)=O | C19H22FNO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [3-({tert-Butoxycarbonyl-[2-(2-fluoro-phenyl)-ethyl]-amino}-methyl)-4-methoxy-phenyl]-acetic acid methyl ester | 0.25 g | COC(CC1=CC(=C(C=C1)OC)CN(CCC1=C(C=CC=C1)F)C(=O)OC(C)(C)C)=O | C24H30FNO5
